US06531495B1
From 10 g (28 mmol) of 2′-phthalimidomethylbiphenyl-2-carboxylic acid (precursor 2), by reaction with 2-(2-pyridyl)ethylamine in the presence of HOBT and DIC, 13 g of 2′-phthalimidomethylbiphenyl-2-carboxylic acid 2-(2-pyridyl)ethylamide were obtained; m.p. 155° C. The product was suspended in 300 ml of methanol and treated with 20 ml of hydrazine hydrate. After stirring at 40° C. for 1 h, the cooled reaction mixture was filtered. The filtrate was concentrated and the residue was taken up in EA. The product was extracted into the aqueous phase 2 times using 2 M hydrochloric acid. The aqueous phase was then rendered alkaline with potassium carbonate and extracted 2 times with EA. After washing with water, drying and concentrating, 7.3 g of 2′-aminomethylbiphenyl-2-carboxylic acid 2-(2-pyridyl)ethylamide were obtained.

reactant | 2′-phthalimidomethylbiphenyl-2-carboxylic acid | 28 mmol, 10 g | C1(C=2C(C(N1CC1=C(C=CC=C1)C=1C(=CC=CC1)C(=O)O)=O)=CC=CC2)=O | C22H15NO4
reactant | 2-(2-pyridyl)ethylamine | N1=C(C=CC=C1)CCN | C7H10N2
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIC | CC(N=C=NC(C)C)C | C7H14N2
product | 2′-phthalimidomethylbiphenyl-2-carboxylic acid 2-(2-pyridyl)ethylamide | 13 g | N1=C(C=CC=C1)CCNC(=O)C=1C(=CC=CC1)C1=C(C=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C29H23N3O3
